US04002751
To a solution consisting of 15.5 grams of 4,5-dichloro-2-(3-trifluoromethylphenyl)-pyridazine-3(2H)-one in 120 grams of methanol is added 9.2 grams methylhydrazine. The reaction mixture is heated to 45° C for three hours, cooled and poured onto 250 grams of water. The resulting precipitate is separated by filtration, washed with water and dried. The solid is crystallized from benzene to yield 4-chloro-2-(3-trifluoromethylphenyl)-5-(1-methylhydrazino)-pyridazin-3(2H)-one (m.p. 140° to 141° C, with decomposition).

reactant | 4,5-dichloro-2-(3-trifluoromethylphenyl)-pyridazine-3(2H)-one | 15.5 grams | ClC=1C(N(N=CC1Cl)C1=CC(=CC=C1)C(F)(F)F)=O | C11H5Cl2F3N2O
reactant | methylhydrazine | 9.2 grams | CNN | CH6N2
reactant | water | 250 grams | O | H2O
solvent | methanol | 120 grams | CO | CH4O
product | 4-chloro-2-(3-trifluoromethylphenyl)-5-(1-methylhydrazino)-pyridazin-3(2H)-one | ClC=1C(N(N=CC1N(N)C)C1=CC(=CC=C1)C(F)(F)F)=O | C12H10ClF3N4O
